US06174885B1
(1) 6-(Hydroxymethyl)-N-(2-piperidinoethyl)-3-cyclohexene-1-carboxamide
N-(2-Aminoethyl)piperidine (2.11 g) was added to cis-4-cyclohexene-1,2-dicarboxylic anhydride (2.50 g) and stirred for 6 hours at 140° C. The reaction mixture was suspended into a mixed solution of 2-propanol (125 ml) and water (21 ml) and then sodium borohydride (3.12 g) was added thereto at room temperature. After being stirred for 68 hours at room temperature, the reaction mixture was acidified with dilute hydrochloric acid and then concentrated. The residue was adjusted to pH 9 with saturated sodium hydrogencarbonate aqueous solution and 1N sodium hydroxide, and then extracted with ethyl acetate. The extract was washed with saturated brine, dried over sodium sulfate anhydride, and concentrated, thereby yielding a crude (3.34 g) containing the entitled compound as brown syrup.

reactant | N-(2-Aminoethyl)piperidine | 2.11 g | NCCN1CCCCC1 | C7H16N2
reactant | cis-4-cyclohexene-1,2-dicarboxylic anhydride | 2.50 g | [C@@H]12[C@@H](CC=CC1)C(=O)OC2=O | C8H8O3
reactant | sodium borohydride | 3.12 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 21 ml | O | H2O
solvent | 2-propanol | 125 ml | CC(C)O | C3H8O
product | 6-(Hydroxymethyl)-N-(2-piperidinoethyl)-3-cyclohexene-1-carboxamide | OCC1CC=CCC1C(=O)NCCN1CCCCC1 | C15H26N2O2
